US07799775B2
To 10 ml of tetrahydrofuran, 203 mg of 3-amino-2-[3-(4-quinolin-2-ylpiperazin-1-yl)-propylthio]-3,4,5,6,7,8-hexahydro-4-oxa-9-thia-1,3,7-triaza-9H-fluorene trihydrochloride as synthesized in Example 1-59 was added and into which 133 mg of triethylamine was dropped. Acetyl chloride was added to the mixture under cooling with ice, followed by 30 minutes stirring and distillation under reduced pressure. The residue was purified on silica gel column chromatography (chloroform:methanol=25:1) to provide 150 mg (83%) of 7-acetyl-3-amino-2-[3-(4-quinolin-2-ylpiperazin-1-yl)propylthio]-3,4,5,6,7,8-hexahydro-4-oxa-9-thia-1,3,7-triaza-9H-fluorene.

reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | 3-amino-2-[3-(4-quinolin-2-ylpiperazin-1-yl)-propylthio]-3,4,5,6,7,8-hexahydro-4-oxa-9-thia-1,3,7-triaza-9H-fluorene trihydrochloride | 203 mg | Cl.Cl.Cl.NN1C(=NC=2SC=3CNCCC3C2O1)SCCCN1CCN(CC1)C1=NC2=CC=CC=C2C=C1
reactant | Acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | triethylamine | 133 mg | C(C)N(CC)CC | C6H15N
product | 7-acetyl-3-amino-2-[3-(4-quinolin-2-ylpiperazin-1-yl)propylthio]-3,4,5,6,7,8-hexahydro-4-oxa-9-thia-1,3,7-triaza-9H-fluorene | 150 mg, 83% | C(C)(=O)N1CCC=2C=3ON(C(=NC3SC2C1)SCCCN1CCN(CC1)C1=NC2=CC=CC=C2C=C1)N | C26H31N7O2S2
